US08895580B2
Step 2: Preparation of 5-[(5-bromopyridin-2-yl)methyl]-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one
Ethyl (4Z)-1-[(5-bromopyridin-2-yl)methyl]-4-[(tert-butoxycarbonyl)hydrazono]-1,4-dihydroquinoline-3-carboxylate (2.86 g, 5.70 mmol) was dissolved in toluene (30 mL), treated with hydrochloric acid (0.950 mL, 12 N aqueous, 11 mmol, 2 equiv) and placed into an oil bath preheated to 100° C. for 3 hours. The mixture was cooled to ambient temperature. The mixture was filtered and the yellow solid was collected and washed with toluene (2×10 mL), providing the titled compound.

reactant | Ethyl (4Z)-1-[(5-bromopyridin-2-yl)methyl]-4-[(tert-butoxycarbonyl)hydrazono]-1,4-dihydroquinoline-3-carboxylate | 5.70 mmol, 2.86 g | BrC=1C=CC(=NC1)CN1C=C(\C(\C2=CC=CC=C12)=N/NC(=O)OC(C)(C)C)C(=O)OCC | C23H25BrN4O4
reactant | hydrochloric acid | 11 mmol, 12 N, 0.950 mL, 2 equiv | Cl | ClH
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 5-[(5-bromopyridin-2-yl)methyl]-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one | BrC=1C=CC(=NC1)CN1C=C2C(C=3C=CC=CC13)=NNC2=O | C16H11BrN4O
